US06479487B1
2-Chloro-6-[(3-iodobenzyl)amino]-9-cyclopentenylpurine is prepared from 2,6-dichloro-9-cyclopentenylpurine, 3-iodobenzylamine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentenylpurine | ClC1=NC(=C2N=CN(C2=N1)C1=CCCC1)Cl | C10H8Cl2N4
reactant | 3-iodobenzylamine | IC=1C=C(CN)C=CC1 | C7H8IN
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[(3-iodobenzyl)amino]-9-cyclopentenylpurine | ClC1=NC(=C2N=CN(C2=N1)C1=CCCC1)NCC1=CC(=CC=C1)I | C17H15ClIN5
